US09029374B2
2N NaOH (6.54 mL, 13.1 mmol), was added dropwise to a stirred suspension of methyl 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate (3 g, 6.54 mmol), in THF (30 mL)/MeOH (30 mL). The resulting solution was stirred at RT overnight. The reaction mixture was diluted with water, the pH was ajusted to 3 with a 2M aq. sol. HCl. The solvents were removed and the white precipitate was collected by filtration, washed with water and dried then washed with ethyl acetate and ether to afford 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (2.5 g, 86%) which was used without further purification. Mass Spectrum: M+H+ 445.

reactant | NaOH | 13.1 mmol, 2N, 6.54 mL | [OH-].[Na+]
reactant | methyl 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 6.54 mmol, 3 g | FC=1C=C(C=C(C1)F)N(C(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC)C | C24H24F2N2O5
reactant | MeOH | 30 mL | CO | CH4O
reactant | HCl | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 2.5 g, 86% | FC=1C=C(C=C(C1)F)N(C(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O)C | C23H22F2N2O5
